US07741341B2
(i) 1-(4-Nitro-phenyl)-1H-pyrimidine-2,4-dione
A mixture of 3.5 g 1H-Pyrimidine-2,4-dione and 3 g 1-Fluoro-4-nitro-benzene and 13.8 g Cs2CO3 in 60 mL DMF was heated to 80° C. for 12 h. This solution was poured on to 200 mL of water and the resulting precipitate was collected by filtration to yield a bright yellow crystalline product, which was dried under reduced pressure. Yield: 2.6 g.

reactant | 1H-Pyrimidine-2,4-dione | 3.5 g | N1C(NC(C=C1)=O)=O | C4H4N2O2
reactant | 1-Fluoro-4-nitro-benzene | 3 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Cs2CO3 | 13.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 200 mL | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 1-(4-Nitro-phenyl)-1H-pyrimidine-2,4-dione | [N+](=O)([O-])C1=CC=C(C=C1)N1C(NC(C=C1)=O)=O | C10H7N3O4
